US07776869B2
To a sealable tube containing 5-ethynylpyrimidin-2-amine (172 mg, 1.44 mmol), PdCl2(PPh3)2 (25 mg, 0.036 mmol), 3-iodo-4-methyl-N-(3-(trifluoromethyl)phenyl)benzamide (292 mg, 0.72 mmol) was added MeCN (10 mL) and Et3N (3 mL) followed by CuI (6.8 mg, 0.036 mmol). The tube was sealed and heated at 90° C. for 1 h. The reaction was allowed to cool to room temperature and concentrated under reduced pressure. The resulting brown solid was reconstituted in MeOH:CH2Cl2 (1:1, 10 mL) and silica gel was added and reconcentrated. The silica-gel combined crude mixture was purified via automated flash chromatography (silica gel, 0 to 5% MeOH in CH2Cl2, gradient elution) to afford 3-(2-(2-aminopyrimidin-5-yl)ethynyl)-4-methyl-N-(3-(trifluoromethyl)phenyl)benzamide. MS m/z=397 [M+H]+. Calc'd for C21H15F3N4O: 396

reactant | 5-ethynylpyrimidin-2-amine | 1.44 mmol, 172 mg | C(#C)C=1C=NC(=NC1)N | C6H5N3
reactant | 3-iodo-4-methyl-N-(3-(trifluoromethyl)phenyl)benzamide | 0.72 mmol, 292 mg | IC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C | C15H11F3INO
reactant | MeCN | 10 mL | CC#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.036 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.036 mmol, 6.8 mg | [Cu]I
solvent | Et3N | 3 mL | CCN(CC)CC | C6H15N
product | 3-(2-(2-aminopyrimidin-5-yl)ethynyl)-4-methyl-N-(3-(trifluoromethyl)phenyl)benzamide | NC1=NC=C(C=N1)C#CC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C | C21H15F3N4O
